### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Generator): introduce classes HasDetector and HasSeparator

### PR DESCRIPTION
**Pull request by datokrat**
This change defines the typeclasses `HasDetector` and `HasSeparator` for categories with detectors/separators. Several results for `IsDetector` and `IsSeparator` are also proved for the new typeclasses.

Convenience theorems for proving the well-poweredness of categories with separators are added, too.

Two typos are fixed: "separating" is corrected to "coseparating" in the module docstring and `IsCospearator.isCodetector` is renamed to `IsCoseparator.isCodetector`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by datokrat** [comment]
While `wellPowered_of_isSeparator` can be inlined quite trivially and might be unnecessary, I think `HasSeparator.wellPowered` can be actually useful. Happy to hear opinions on this :)

File: Mathlib/CategoryTheory/Generator.lean [hunk 1]
```diff
@@ -567,4 +569,98 @@ theorem wellPowered_of_isDetector [HasPullbacks C] (G : C) (hG : IsDetector G) :
...
+theorem HasCodetector.hasCoseparator [HasCoequalizers C] [HasCodetector C] : HasCoseparator C := by
+  obtain ⟨G, hG⟩ : HasCodetector C := inferInstance
+  exact ⟨G, hG.isCoseparator⟩
+
+theorem HasDetector.wellPowered [HasPullbacks C] [HasDetector C] : WellPowered C := by
+  obtain ⟨G, hG⟩ : HasDetector C := inferInstance
+  exact wellPowered_of_isDetector G hG
+
+theorem HasSeparator.wellPowered [HasPullbacks C] [Balanced C] [HasSeparator C] :
+    WellPowered C := HasSeparator.hasDetector.wellPowered
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Generator.lean:628]: Should we make these instances?

Comment (datokrat) [reply Mathlib/CategoryTheory/Generator.lean:628]: Regarding the first four at least, making them instances might lead to (at least logical) cycles during typeclass resolution. Would this be a problem? In the case of `HasColimits C` and `HasLimits Cᵒᵖ`, [hasColimits_of_hasLimits_op](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Limits/Opposites.html#CategoryTheory.Limits.hasColimits_of_hasLimits_op) is not an instance, other than [hasLimits_op_of_hasColimits](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Limits/Opposites.html#CategoryTheory.Limits.hasLimits_op_of_hasColimits), for example.

I think we could convert the `wellPowered` theorems into instances, there seems to be less of a danger of causing cycles...

File: Mathlib/CategoryTheory/Generator.lean [hunk 2]
```diff
@@ -567,4 +569,98 @@ theorem wellPowered_of_isDetector [HasPullbacks C] (G : C) (hG : IsDetector G) :
...
+
+section HasGenerator
+
+variable (E : Type u₃) [Category.{v₃} E]
+
+/--
+A category instantiates `HasSeparator` if and only if it has a separator.
+See also `IsSeparator`.
+-/
+class HasSeparator : Prop :=
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Generator.lean:583]: This syntax is [going away soon](https://github.com/leanprover/lean4/pull/5542).
```suggestion
class HasSeparator : Prop where
```

File: Mathlib/CategoryTheory/Generator.lean [hunk 3]
```diff
@@ -567,4 +569,98 @@ theorem wellPowered_of_isDetector [HasPullbacks C] (G : C) (hG : IsDetector G) :
   haveI := small_subsingleton ({G} : Set C)
   wellPowered_of_isDetecting hG
 
+theorem wellPowered_of_isSeparator [HasPullbacks C] [Balanced C] (G : C) (hG : IsSeparator G) :
+    WellPowered C := wellPowered_of_isDetecting hG.isDetector
+
+section HasGenerator
+
+variable (E : Type u₃) [Category.{v₃} E]
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Generator.lean:577]: It might be clearer to the reader to enclose the class definitions in a `section` that has `variable (C)`, otherthey they (like me) might wonder why you have to introduce a new category.

File: Mathlib/CategoryTheory/Generator.lean [hunk 4]
```diff
@@ -567,4 +569,98 @@ theorem wellPowered_of_isDetector [HasPullbacks C] (G : C) (hG : IsDetector G) :
...
+theorem hasSeparator_op_iff : HasSeparator Eᵒᵖ ↔ HasCoseparator E :=
+  ⟨fun ⟨G, hG⟩ => ⟨unop G, (isCoseparator_unop_iff G).mpr hG⟩,
+   fun ⟨G, hG⟩ => ⟨op G, (isSeparator_op_iff G).mpr hG⟩⟩
+
+@[simp]
+theorem hasCoseparator_op_iff : HasCoseparator Eᵒᵖ ↔ HasSeparator E :=
+  ⟨fun ⟨G, hG⟩ => ⟨unop G, (isSeparator_unop_iff G).mpr hG⟩,
+   fun ⟨G, hG⟩ => ⟨op G, (isCoseparator_op_iff G).mpr hG⟩⟩
+
+theorem HasSeparator.hasCoseparator_op [HasSeparator C] : HasCoseparator Cᵒᵖ := by simp [*]
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Generator.lean:642]: `hasCoseparator_op` and `hasSeparator_op` should be instances (and similarly for detectors below).

File: Mathlib/CategoryTheory/Generator.lean [hunk 5]
```diff
@@ -567,4 +569,98 @@ theorem wellPowered_of_isDetector [HasPullbacks C] (G : C) (hG : IsDetector G) :
...
+theorem HasSeparator.hasCoseparator_unop [h : HasSeparator Cᵒᵖ] : HasCoseparator C := by simp_all
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Generator.lean:643]: The naming convention suggests `hasCoseparator_of_hasSeparator_op` here.

File: Mathlib/CategoryTheory/Generator.lean [hunk 6]
```diff
@@ -567,4 +569,98 @@ theorem wellPowered_of_isDetector [HasPullbacks C] (G : C) (hG : IsDetector G) :
...
 
+theorem wellPowered_of_isSeparator [HasPullbacks C] [Balanced C] (G : C) (hG : IsSeparator G) :
+    WellPowered C := wellPowered_of_isDetecting hG.isDetector
+
+section HasGenerator
+
+variable (E : Type u₃) [Category.{v₃} E]
+
+/--
+A category instantiates `HasSeparator` if and only if it has a separator.
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Generator.lean:580]: This docstring sounds a bit strange to me, it almost makes it seem like there is some magic metaprogram that automatically instantiates `HasSeparator`.

You could consider going into a bit more detail that `HasSeparator` is `Prop`-valued, so users who care about specific objects being separators should use `IsSeparator` instead.

File: Mathlib/CategoryTheory/Generator.lean [hunk 7]
```diff
@@ -567,4 +569,98 @@ theorem wellPowered_of_isDetector [HasPullbacks C] (G : C) (hG : IsDetector G) :
...
+See also `IsSeparator`.
+-/
+class HasSeparator : Prop :=
+  hasSeparator : ∃ G : E, IsSeparator G
+
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Generator.lean:585]: I think it might be nice to add
```lean
variable (C)
noncomputable def separator [HasSeparator C] : C :=
  Classical.indefiniteDescription _ (HasSeparator.hasSeparator) |>.1

theorem isSeparator_separator [HasSeparator C] : IsSeparator (separator C) :=
  Classical.indefiniteDescription _ (HasSeparator.hasSeparator) |>.2
```
for people who just want to quickly get hold of a separator using choice (similar to how `limit` is for `HasLimit`).

File: Mathlib/CategoryTheory/Generator.lean (hunk 1 above)
Comment (datokrat) [reply Mathlib/CategoryTheory/Generator.lean]: I made the `wellPowered` theorems instances and left the others as is.

**Comment by datokrat** [comment]
While applying the suggestions, I decided to make `C` implicit in `hasSeparator_op_iff` etc.. This way, one does not need to supply the category in `hasSeparator_op_iff.mp proof_hasSeparator_C_op`. I'd be interested what you think about that!

File: Mathlib/CategoryTheory/Generator.lean (hunk 5 above)
Comment (datokrat) [reply Mathlib/CategoryTheory/Generator.lean]: I renamed the four applying theorems á la `HasSeparator.hasCoseparator_of_hasSeparator_op`.

File: Mathlib/CategoryTheory/Generator.lean [hunk 8]
```diff
@@ -567,4 +569,186 @@ theorem wellPowered_of_isDetector [HasPullbacks C] (G : C) (hG : IsDetector G) :
...
+section Choice
+
+variable (C)
+
+/--
+Given a category `C` that has a separator (`HasSeparator C`), `separator` is an arbitrarily
+chosen separator of `C`.
+-/
+noncomputable def separator [HasSeparator C] : C :=
+  Classical.indefiniteDescription _ HasSeparator.hasSeparator |>.1
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Generator.lean:640]: Sorry, I think I told you a suboptimal way to write this and the idiomatic way is
```suggestion
  HasSeparator.hasSeparator.choose
```
and similarly `HasSeparator.hasSeparator.choose_spec` for the specification theorem below.

File: Mathlib/CategoryTheory/Generator.lean [hunk 9]
```diff
@@ -567,4 +569,186 @@ theorem wellPowered_of_isDetector [HasPullbacks C] (G : C) (hG : IsDetector G) :
...
+  hasCodetector : ∃ G : C, IsCodetector G
+
+end Definitions
+
+section Choice
+
+variable (C)
+
+/--
+Given a category `C` that has a separator (`HasSeparator C`), `separator` is an arbitrarily
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Generator.lean:636]:
```suggestion
Given a category `C` that has a separator (`HasSeparator C`), `separator C` is an arbitrarily
```

File: Mathlib/CategoryTheory/Generator.lean [hunk 10]
```diff
@@ -39,17 +39,19 @@ We
...
 ## Future work
 
 * We currently don't have any examples yet.
-* We will want typeclasses `HasSeparator C` and similar.
 
 -/
 
 
-universe w v₁ v₂ u₁ u₂
+universe w v₁ v₂ v₃ u₁ u₂ u₃
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Generator.lean:54]: I think this change is no longer needed.

**Review by TwoFX — APPROVED** [review]
Thanks!
bors d+
